US08258140B2
Preparation of 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine
Dichloromethane (225.0 mL) and 4-{1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl}phenol (50.0 g, 138 m mol) were charged to a suitable round bottom flask at 22-25° C. Triphenylphosphine (72.2 g, 275 m mol) and 1-[4-(2-hydroxy-ethyl)piperazin-1-yl]ethanone [CAS: 83502-55-0] (47.4 g, 275 m mol) were added successively to the reaction mass and stirred for 10 min at 22-25° C. Di-isopropyl azodicarboxylate (55.65 g, 275 m mol) in dichloromethane (75.0 mL) was added to the reaction mass slowly drop wise at 25-30° C. over a period of 60-90 min. The resulting reaction mass was stirred for 1.0 h at 25-30° C. to complete the reaction. n-Heptane (600.0 mL) was introduced to the reaction mass by drop wise addition over a period of 15-30 min at 22-25° C. and stirred for 30 min at the same temperature. Thus precipitated solid was filtered and washed with n-heptane (150.0 mL). The material was then suck dried for 30 min under reduced pressure. The crude material was purified by slurry washing in methanol (325.0 mL) at 22-25° C. The solid was then collected by filtration and washed with methanol (50.0 mL). The material was dried under reduced pressure with nitrogen gas bleed at 50° C. to afford the desired product 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (61.2 g, 84%) as a free flowing solid.

reactant | 4-{1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl}phenol | 50.0 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(C=C2)O)(F)F | C17H16F3N5O
reactant | Triphenylphosphine | 72.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-[4-(2-hydroxy-ethyl)piperazin-1-yl]ethanone | 47.4 g | OCCN1CCN(CC1)C(C)=O | C8H16N2O2
reactant | Di-isopropyl azodicarboxylate | 55.65 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 75.0 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 225.0 mL | ClCCl | CH2Cl2
solvent | n-Heptane | 600.0 mL | CCCCCCC | C7H16
product | 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 61.2 g, 84% | C(C)(=O)N1CCN(CC1)CCOC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C25H30F3N7O2
